US05026874
A mixture of 1-(hex-5-ynyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo-[2.2.2]octane (0.75 g., 1 equivalent), anhydrous sodium acetate (2.0 g.) and 3-chloroperbenzoic acid (85%, 1.12 g. 2.5 equivalents) was stirred at 20° in dry acetonitrile (50 ml.) for 18 hours. Water was added and the mixture was extracted with ethyl acetate. The extracts were washed with sodium hydrogen carbonate solution, water and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo. After purification by chromatography on silica (eluting with ethyl acetate), 1-(hex-5-ynyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo[2.2.2]octane-6-oxide was obtained as a colourless solid (0.35 g.).

reactant | 1-(hex-5-ynyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo-[2.2.2]octane | 0.75 g, 1 equivalent | C(CCCC#C)C12OCC(CS1)(CS2)CCC | C14H22OS2
reactant | sodium acetate | 2.0 g | C(C)(=O)[O-].[Na+]
reactant | 3-chloroperbenzoic acid | 1.12 g, 2.5 equivalents | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(hex-5-ynyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo[2.2.2]octane-6-oxide | C(CCCC#C)C12OCC(CS1=O)(CS2)CCC | C14H22O2S2
